US09255090B2
Synthesis of (±)-8-[5-(1-Ethoxycarbonyl-ethyl)-2-methoxy-phenyl]-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (C29H30NO5F, MW=491.21)
A mixture under N2 of palladium(II)acetate (1.2 mg, 5 μmol, 0.02 eq.), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (4.2 mg, 0.01 mmol, 0.04 eq.), (±)-2-(3-bromo-4-methoxy-phenyl)-propionic acid ethyl ester (80 mg, 0.26 mmol, 1 eq.) and potassium phosphate (109 mg, 0.51 mmol, 2 eq.) in toluene (1.9 mL) and water (0.2 mL) was stirred at r.t. during 2 min. 5-Fluoro-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (147 mg, 0.26 mmol, 1 eq.) was added and the mixture was stirred at 100° C. for 18 hours. The mixture was allowed to cool to r.t., diluted with Et2O (10 mL), filtered through celite, washed with Et2O, and the filtrate was concentrated in vacuo. The residue was purified by prep. HPLC (column: Atlantis, 30×75 mm, 10 um, UV/MS, acidic conditions) and concentrated in vacuo to give the title compound as a colorless oil.

reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.01 mmol, 4.2 mg, 0.04 eq. | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | (±)-2-(3-bromo-4-methoxy-phenyl)-propionic acid ethyl ester | 0.26 mmol, 80 mg, 1 eq. | C(C)OC(C(C)C1=CC(=C(C=C1)OC)Br)=O | C12H15BrO3
reactant | potassium phosphate | 0.51 mmol, 109 mg, 2 eq. | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 5-Fluoro-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 0.26 mmol, 147 mg, 1 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)B1OC(C(O1)(C)C)(C)C | C23H27BFNO4
solvent | toluene | 1.9 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.2 mL | O | H2O
solvent | Et2O | 10 mL | CCOCC | C4H10O
catalyst | palladium(II)acetate | 5 μmol, 1.2 mg, 0.02 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (±)-8-[5-(1-Ethoxycarbonyl-ethyl)-2-methoxy-phenyl]-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)C1=C(C=CC(=C1)C(C)C(=O)OCC)OC | C29H30FNO5
